US04065473
Preparation of N-(6-Cyanomethyl-3,4-methylenedioxyphenethyl) acetamide
4.7 g of N-(6-chloromethyl-3,4-methylenedioxyphenethyl) acetamide was dissolved in 10 ml of DMSO and 1.32 g (0.028 mole) of sodium cyanide added to the stirred solution. Within a few minutes, the temperature rose from 25° to 32° C. After 1.5 hrs at ambient temperature the mixture was poured into ice and water. The suspension was extracted with three 50-ml portions of benzene. The benzene layers were washed with saturated brine six times, then with water, the solution dried, and the solvent distilled in the rotary evaporator leaving the above-named product as a crystalline solid, m.p. 153.3-155.5.

reactant | N-(6-chloromethyl-3,4-methylenedioxyphenethyl) acetamide | 4.7 g | ClCC1=CC2=C(C=C1CCNC(C)=O)OCO2 | C12H14ClNO3
reactant | sodium cyanide | 0.028 mole, 1.32 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | N-(6-Cyanomethyl-3,4-methylenedioxyphenethyl) acetamide | C(#N)CC1=CC2=C(C=C1CCNC(C)=O)OCO2 | C13H14N2O3
